US07691877B2
4-Ethyl-oxazole-5-carboxylic acid
4-Ethyl-oxazole-5-carboxylic acid ethyl ester (4.6 g) was stirred in a solution of 1N NaOH (25 ml) and ethanol (1 ml). The reaction mixture was then stirred at room temperature for 16 hours. Diethyl ether (25 ml) was added, and then the aqueous layer separated and acidified with 1N HCl (26 ml). A yellow solid formed that was collected by filtration, washed with water, then with n-pentane, providing the title compound (2.6 g) as a white solid.

reactant | 4-Ethyl-oxazole-5-carboxylic acid ethyl ester | 4.6 g | C(C)OC(=O)C1=C(N=CO1)CC | C8H11NO3
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | Diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 4-Ethyl-oxazole-5-carboxylic acid | 2.6 g | C(C)C=1N=COC1C(=O)O | C6H7NO3
